US06562989B2
N-(3-methoxyphenyl)morpholine (Table 3, Entry 3)
According to the general procedure B, 3-bromoanisole (82 mg, 0.44 mmol) reacted with morpholine (36 mg, 0.41 mmol) using 1 mol % of catalyst and sodium tert-butoxide (42 mg, 0.44 mmol) at 100° C. for 21 h to give the title compound (76 mg, 96%) as an oil: 1H-NMR (300 MHz, CDCl3): δ 7.21 (t, 1H, J=8.1 and 8.7 Hz), 6.57-6.45 (m, 3H), 3.87 (t, 4H, J=4.5 and 5.1 Hz), 3.81 (s, 3H), 3.17 (t, 4H, J=4.5 and 5.1 Hz). 13C{1H}-NMR (100 MHz, CDCl3): δ 160.00, 152.67, 129.83, 108.43, 104.68, 102.18, 66.86, 55.15, 49.25. GC/MS(EI): m/z 193 (M+).

reactant | 3-bromoanisole | 0.44 mmol, 82 mg | BrC=1C=C(C=CC1)OC | C7H7BrO
reactant | morpholine | 0.41 mmol, 36 mg | N1CCOCC1 | C4H9NO
reactant | sodium tert-butoxide | 0.44 mmol, 42 mg | CC(C)([O-])C.[Na+]
product | N-(3-methoxyphenyl)morpholine | 76 mg, 96% | COC=1C=C(C=CC1)N1CCOCC1 | C11H15NO2
